US09079866B2
Step A: 1-[(2-Bromophenyl)sulfonyl]-4-{1-[(2-bromophenyl)sulfonyl]-1H-imidazol-4-yl}piperidine
To a 20 mL vial were added a stirbar, 4-(1H-imidazol-4-yl)piperidine.HCl (696 mg, 3.71 mmol), ACN (5 mL), and DIPEA (2.0 mL, 12 mmol). The mixture was then treated with 2-bromobenzene-1-sulfonyl chloride (900 mg, 3.52 mmol) and the mixture was stirred for 15.5 hours before concentrating to dryness and subjecting the residue to FCC to give the title compound (950 mg, 92%). MS (ESI): mass calcd. for C20H19Br2N3O4S2 586.92 m/z found 587.9 [M+H]+; 1H NMR (600 MHz, CDCl3) δ 8.20 (dd, J=7.9, 1.8, 1H), 8.08 (dd, J=7.8, 1.7, 1H), 8.06 (d, J=1.3, 1H), 7.75 (dd, J=7.7, 1.3, 1H), 7.72 (dd, J=7.9, 1.2, 1H), 7.58-7.53 (m, 1H), 7.53-7.49 (m, 1H), 7.45-7.40 (m, 1H), 7.39-7.34 (m, 1H), 6.93-6.91 (m, 1H), 3.90-3.82 (m, 2H), 2.93-2.83 (m, 2H), 2.68-2.59 (m, 1H), 2.02 (dd, J=13.9, 3.0, 2H), 1.70-1.59 (m, 2H).

reactant | 4-(1H-imidazol-4-yl)piperidine | N1C=NC(=C1)C1CCNCC1 | C8H13N3
reactant | HCl | 3.71 mmol, 696 mg | Cl | ClH
reactant | DIPEA | 12 mmol, 2.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-bromobenzene-1-sulfonyl chloride | 3.52 mmol, 900 mg | BrC1=C(C=CC=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | ACN | 5 mL | C(C)#N | C2H3N
product | 1-[(2-Bromophenyl)sulfonyl]-4-{1-[(2-bromophenyl)sulfonyl]-1H-imidazol-4-yl}piperidine | 950 mg, 92% | BrC1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)C=1N=CN(C1)S(=O)(=O)C1=C(C=CC=C1)Br | C20H19Br2N3O4S2
